US07642264B2
A stirred mixture of 3-{4-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonic acid 2,2-dimethyl-propyl ester (1.27 g, 2.13 mmol), 37% HCl (12.5 ml) and dioxane (12.5 ml) was heated under reflux conditions for 19 h and evaporated to dryness. Diethyl ether (50 ml) was added to the crude product and the mixture was stirred at room temperature for 1 h. The precipitate was collected by filtration and dried to yield 3-{4-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonic acid hydrochloride as a white solid (1.08 g, 90%). MS (ISN) 524.0 [(M−H)−]; mp 407° C. (dec.).

reactant | 3-{4-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonic acid 2,2-dimethyl-propyl ester | 2.13 mmol, 1.27 g | CC(COS(=O)(=O)C1=CC(=CC=C1)C1=NC=CC(=C1)C1=NC(=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)(C)C | C28H23F6N3O3S
reactant | HCl | 12.5 ml | Cl | ClH
solvent | dioxane | 12.5 ml | O1CCOCC1 | C4H8O2
product | 3-{4-[4-trifluoromethyl-6-(4-trifluoromethyl-phenyl)-pyrimidin-2-yl]-pyridin-2-yl}-benzenesulfonic acid hydrochloride | 1.08 g, 90% | Cl.FC(C1=NC(=NC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=NC=C1)C=1C=C(C=CC1)S(=O)(=O)O)(F)F | InChI=1S/C23H13F6N3O3S.ClH/c24-22(25,26)16-6-4-13(5-7-16)19-12-20(23(27,28)29)32-21(31-19)15-8-9-30-18(11-15)14-2-1-3-17(10-14)36(33,34)35;/h1-12H,(H,33,34,35);1H
